US05747320
Enzyme assay. β-Glucosidase was routinely assayed using a reaction mixture (1 ml) containing 4 mM p-nitrophenyl β-D-glucoside (pNPβG), 50 mM acetate buffer, pH 5.0 and appropriately diluted enzyme solution. After incubation at 50° C. for 30 min, the reaction was stopped by adding ice-cold 0.5M Na2CO3 (1 ml) and the color developed as a result of p-nitrophenol (pNP) liberation was measured at 405 nm. One unit (U) of β-glucosidase corresponds to the release of 1 μmol pNP. min-1 in the reaction mixture under these assay conditions.

reactant | p-nitrophenyl β-D-glucoside | 4 mM | C1=CC(=CC=C1[N+](=O)[O-])O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O | C12H15NO8
reactant | acetate | 50 mM | C(C)(=O)[O-]
product | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
